US07288538B2
To a solution of the 3-bromo-2,4-dimethylphenylamine (0.6 g, 3.0 mmol) in toluene (10 mL) and pyrrolidine (1.25 mL, 15 mmol) was added sodium-t-butoxide (0.86 g, 9 mmol, 3eq). The suspension was deoxygenated by passing a stream of N2 gas through the mixture for approximately 5–10 minutes before introducing the tris(dibenzilidene)dipalladium(0) (Pd2(dba)3) (27 mg) and rac-2,2′Bis(diphenylphosphino)-1,1′binaphthyl (BINAP) (25 mg). The nitrogen stream continued 10 minutes before heating at 100° C. overnight. The reaction mixture was cooled, acidified with HCl (2N) and extracted with diethyl ether. The aqueous layer was adjusted basic and re-extracted with ethyl acetate. The organic layer was dried over sodium sulfate, decanted and concentrated under reduced pressure. The residue was purified by flash chromatography (silica gel, gradient elution with 6:1 to 4:1 hexanes to ethyl acetate) to give the desired 2-(pyrrolidin-1-yl)-4-amino-m-xylene.

reactant | 3-bromo-2,4-dimethylphenylamine | 3.0 mmol, 0.6 g | BrC=1C(=C(C=CC1C)N)C | C8H10BrN
reactant | pyrrolidine | 15 mmol, 1.25 mL | N1CCCC1 | C4H9N
reactant | sodium-t-butoxide | 9 mmol, 0.86 g, 3eq | CC(C)([O-])C.[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(pyrrolidin-1-yl)-4-amino-m-xylene | N1(CCCC1)C1=C(C=CC(=C1C)N)C | C12H18N2
